US08034811B2
O-(5-Methyl-isoxazol-3-ylmethyl)-hydroxylamine
Prepared by a similar procedure as described for preparation 15. Starting materials: N-hydroxyphthalimide and 3-chloromethyl-5-methylisoxazole (Maybridge).

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 3-chloromethyl-5-methylisoxazole | ClCC1=NOC(=C1)C | C5H6ClNO
product | O-(5-Methyl-isoxazol-3-ylmethyl)-hydroxylamine | CC1=CC(=NO1)CON | C5H8N2O2
